Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
"Why am I here...?"
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is a ___ year old Caucasian woman originally from 
___ with a medical history of lower back pain and a 
relatively unknown psychiatric history significant for bipolar 
affective disorder, anxiety, and unclear trauma history who was 
brought in by police after pulling an emergency break at the 
___ station followed by subsequent bizarre behavior 
concerning to the police. Psychiatry is consulted to assist with 
management and disposition.   Ms. ___ has a difficult time 
articulating why she is in the emergency room or describing the 
events that led to her presentation. She says that she is 
originally from ___ and had been there a few days prior 
visiting her father. She was in ___ two days ago where 
"I slept on a park bench", and today was at ___ 
because she was traveling from ___ to ___. She cannot 
explain why she was in ___. She says she does not know 
anyone in ___ and came here because "I was coming to talk to 
ships out at sea overtaken by ___ pirates". Later she states 
that she has had bad experiences in ___.
She says that she had been living in ___ until she left 
about ___ years ago to "see the rest of the country". She 
states that "I have had a weird chain of events this last ___ 
years". When asked about these events she states, "I downloaded 
an app that changed my life" and then "I have been a victim of a 
hate crime". She later states, "I've been victimized or cursed". 

Ms. ___ says that she has been diagnosed with a mood 
disorder and anxiety in the past, but when asked about bipolar 
affective disorder she denies this as a diagnosis she carries. 
She has not seen a psychiatrist recently, and says that she had 
a few hospitalizations in ___. She says she benefited 
from clonazepam in the past but "the medication turns to 
placebo".
She describes her current mood as "hopeful" and "better", says 
that she has been sleeping ___ hours a night and has a good 
amount of energy, and has been eating ___ meals daily. She 
denies any issues with interest, motivation, concentration, or 
memory. She also denies any suicidal or homicidal ideation, 
intent, or plan. In addition she denies decreased need for 
sleep, increased goal directed behavior, racing thoughts, 
grandiosity, euphoria, or risky or impulsive behaviors (though 
her behavior earlier today indicates otherwise). Notably, she 
has had very frequent cross-country traveling in the last 
several days.
Ms. ___ states that there have been people around her who 
"I don't know who they are but they're thinking about me". She 
says that she feels victimized but has a hard time elaborating 
on what this means. She says, "my life is as important as 
others". She denies any AH, VH, TI, TB, or IOR.
 
With the patient's permission I spoke to her father, ___ 
___ (___ ___:

She was in ___ a few days ago, was at her father's house 
and stayed there for a few hours. She gets rides across the 
country with truck drivers. He isn't surprised that she's here 
because "she's been everywhere". He mentions ___, 
___. Last he heard she said she was going to ___. 
She has a history of bipolar affective disorder. They haven't 
seen each other much in the last several years. He says, "I 
don't know
if she would take any medication if you gave her any". He 
mentions that he received a similar phone call from a 
psychiatrist in ___ about 6 weeks ago but does not remember the 
name of the psychiatrist or the hospital. She has seen 
psychiatrists in ___ and ___. Her mother died 
several years ago who was a "basket case". He can't provide any 
alternative contacts who know her. He says that she needs to be 
hospitalized.
 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
-Diagnoses: Bipolar affective disorder, anxiety
-Hospitalizations: Per patient approximately five in ___
-SA/SI: Denies
-Harm to others: Denies 
-Medication/ECT trials: Quetiapine, clonazepam ___ was my best
friend", clarifies this is sister ___ not clonazepam) 
-Treaters: Denies
-Trauma: Unclear history based on report

PAST MEDICAL HISTORY: 
Lower back pain
 
Social History:
___
Family History:
-Mom: Unknown psychiatric illness
-Sister: Unknown psychiatric illness

 
Physical Exam:
General- dressed in hospital gown, NAD
HEENT- Sclera anicteric. Oropharynx benign. Mucous membranes
moist. 0.5 cm lesion on right cheek just under eye
Neck - Supple. Trachea midline.
Lungs- CTAB
CV- RRR, no murmur
Abdomen: +BS, soft, NTND
Extremities- Warm, no edema
Neuro-
Cranial Nerves-
II: Pupils equally round & reactive to light. 
III,IV,VI: EOMI w/o nystagmus (or diplopia). No ptosis.
V: Sensation intact to light touch. 
VII: Face symmetric without weakness.
VIII: Hears finger rub equally and bilaterally.
IX,X: Voice normal. Palate elevates symmetrically.
XI: SCM and trapezii full.
XII: Tongue protrudes midline.

Motor:  Normal bulk and tone, no tremor, or bradykinesia. Full
strength in bilateral deltoids, elbow flexion and extension,
finger flexion, hip flexors, knee flexion 
Coord: Finger-to-nose-finger movements intact. Finger taps quick
and symmetric.
Reflex: did not assess
___: Intact to LT.
Gait: Posture, stride, and arm-swing normal.

Neuropsychiatric Examination:
  *Appearance:  dressed in hospital gown
  Behavior: no signs of psychomotor agitation/retardation.
Cooperative with interview. 
  *Mood and Affect: "pretty good", affect euthymic, restricted 
at
times, occasional smile 
  *Thought process (including whether linear, tangential,
circumstantial and presence or absence of loose *associations):
 linear, slow at times no e/o LOA
  *Thought Content (including presence or absence of
hallucinations, delusions, homicidal and suicidal ideation, with
details if present): denies SI/HI, AVH. No evidence of internal
stimuli.
  *Judgment and Insight: impaired/poor
  Cognition:
    *Attention: Can do MOYB
    *Orientation: Full (Name, Place and Time/Date).
    *Memory: ___ at 5 minutes
    *Fund of knowledge: knew last 2 presidents
    Calculations: $1.75 = 7 quarters
    Abstraction: car/train= both have wheels, both move forward
    *Speech: slow speech, normal tone and volume
    *Language: Native ___ speaker, no paraphasic errors,
repetition and naming intact
 
Pertinent Results:
CBC: WBC 6.6 Hgb 8.9 Hct 29.1 Plt 102  
BMP: Na 140 K 3.8 Cl 105 CO2 23 Glu 80
Serum Tox: Negative
Urine Tox: Negative
UA: no bacteria, 2 WBC, 30 protein, 4 hyaline casts
 
Brief Hospital Course:
SAFETY:  The pt. was placed on 15 minute checks on admission and 
remained here on that level of observation throughout. She was 
unit-restricted.  There were no acute safety issues during this 
hospitalization.

LEGAL: ___
PSYCHIATRIC:
Unspecified psychotic disorder vs bipolar affective disorder: 
Ms. ___ is a ___ year old Caucasian woman originally from 
___ with bipolar affective disorder and anxiety who was 
brought in by police bizarre behavior in a train station. In the 
ED, she was reported to be disorganized with poor insight and 
judgment. There was a question of mania and patient was started 
on lorazepam 1mg TID and risperidone 2mg QHS while in the ED. 
This was continued when patient was admitted. The lorazepam was 
quickly tapered. Patient was encouraged to continue taking 
risperidone during hospitalization and at discharge. She did 
refuse one dose while in the hospital and stated that she is 
unlikely to continue taking medications at discharge however she 
was willing to fill a 2-week prescription. 
In the hospital, she was somewhat disorganized at times however 
did not exhibit any symptoms of mania. She did speak of times 
when she thought the air was toxic and reported that she left 
her shelter in ___ due to thinking there was a gas leak in 
the shelter causing her headaches. She appeared to be an 
experienced traveler and demonstrated good knowledge of the 
___ system, especially in ___. She received SSDI and had 
means to care for herself. It was determined after collateral 
from family that she is not far from baseline. She was 
discharged to a shelter in ___ that patient arranged herself. 
There were no safety concerns as patient denied any SI/HI prior 
to and throughout hospitalization.

GENERAL MEDICAL CONDITIONS: There were no acute medical issues 
during this hospitalization.
# dermatologic lesion under right eye - recommend outpatient 
follow-up.

PSYCHOSOCIAL:
#) GROUPS/MILIEU: Pt was encouraged to participate in unit’s 
groups/milieu/therapy opportunities. She was able to attend some 
groups, often leaving early. She was observed to have minimal 
contact with peers. Use of coping skills and 
mindfulness/relaxation methods were encouraged. Therapy 
addressed family/social/work issues. 

#) COLLATERAL CONTACTS: Patient had no outpatient providers.

#) FAMILY INVOLVEMENT:
The patient's father in ___ was contacted while patient 
was in the ED who reported patient has a history of traveling 
cross country via bus and hitchhiking with truck drivers. He 
stated hearing about her whereabouts after receiving calls from 
hospitals. He reported she does not take any medications. 
Patient had no interest in returning to ___ and family 
was not able to assist with disposition.

#) INTERVENTIONS:
Medications
Psychotherapeutic interventions: individual, group, and milieu 
therapy
Coordination of aftercare
Behavioral interventions 

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting this medication, and risks and benefits of possible 
alternatives, including not taking the medication, with this 
patient. We discussed the patient's right to decide whether to 
take this medication as well as the importance of the patient's 
actively participating in the treatment and discussing any 
questions about medications with the treatment team, and I 
answered the patient's questions. The patient appeared able to 
understand and consented to begin the medication.

RISK ASSESSMENT:

#) Chronic/Static Risk Factors:
- history of mental illness, not in treatment

#) Modifiable Risk Factors:
- mental illness: patient received medications while in the 
hospital and demonstrated organized thinking and plan to care 
for herself at discharge 
- homelessness: patient prefers to be traveling
- lack of providers: patient was offered to be referred to 
outpatient providers however given her desire to travel, this 
was not possible. She was given contact information to the 
___ for the Homeless Program

#) Protective Factors:
- no history of suicide attempts
- abstinence from alcohol and illicit substances
- no access to guns

PROGNOSIS:
Guarded. Patient has a chronic mental illness with multiple past 
hospitalizations however she is not in treatment, has no 
providers and is unlikely to take medications at discharge. She 
demonstrated knowledge and means of taking care of herself and 
denied any SI/HI at discharge.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1. RISperidone 2 mg PO QHS 
RX *risperidone 2 mg 1 tablet(s) by mouth at bedtime Disp #*14 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Bipolar disorder by history
Unspecified psychotic disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

Mood: 'Good' / constricted affect
Patient denied any AH/VH, SI/HI.

 
Discharge Instructions:
You were hospitalized at ___ for disorganized behavior.  We 
started you on medications, and you are now ready for discharge. 
It is highly recommended that you initiate care with an 
outpatient psychiatrist and therapist.

-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

*It was a pleasure to have worked with you, and we wish you the 
best of health.*

 
Followup Instructions:
___